* NGSPICE file created from SarsaNada_e10_1.ext - technology: sky130A

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_ef_sc_hd__decap_12 abstract view
.subckt sky130_ef_sc_hd__decap_12 VPWR VGND VPB VNB
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_2 abstract view
.subckt sky130_fd_sc_hd__buf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_4 abstract view
.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_6 abstract view
.subckt sky130_fd_sc_hd__decap_6 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o211a_1 abstract view
.subckt sky130_fd_sc_hd__o211a_1 A1 A2 B1 C1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nor2_1 abstract view
.subckt sky130_fd_sc_hd__nor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o21a_1 abstract view
.subckt sky130_fd_sc_hd__o21a_1 A1 A2 B1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand2b_1 abstract view
.subckt sky130_fd_sc_hd__nand2b_1 A_N B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand2_1 abstract view
.subckt sky130_fd_sc_hd__nand2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_1 abstract view
.subckt sky130_fd_sc_hd__clkbuf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_1 abstract view
.subckt sky130_fd_sc_hd__buf_1 A VGND VNB VPB VPWR X
.ends

.subckt SarsaNada_e10_1 A[0] A[1] B[0] B[1] P[0] P[1] P[2] P[3] VGND VPWR
XFILLER_0_35 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xoutput7 net7 VGND VGND VPWR VPWR P[2] sky130_fd_sc_hd__buf_2
XFILLER_3_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_4_Left_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_34 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_69 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xoutput8 net8 VGND VGND VPWR VPWR P[3] sky130_fd_sc_hd__buf_2
XFILLER_6_35 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_6_Right_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_69 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_48 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_3_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_3_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_TAPCELL_ROW_5_26 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_6_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_3_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_9_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_8_Left_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_9_49 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_1_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_1_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_EDGE_ROW_1_Right_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
X_09_ net4 net2 _03_ _00_ VGND VGND VPWR VPWR _02_ sky130_fd_sc_hd__o211a_1
XTAP_TAPCELL_ROW_8_29 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_9_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_08_ _03_ _00_ VGND VGND VPWR VPWR net8 sky130_fd_sc_hd__nor2_1
XFILLER_4_41 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_TAPCELL_ROW_0_20 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_07_ net4 net1 _01_ VGND VGND VPWR VPWR net5 sky130_fd_sc_hd__o21a_1
XTAP_TAPCELL_ROW_9_30 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_0_21 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_4_53 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_3_Left_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_5_Right_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_06_ _00_ _03_ VGND VGND VPWR VPWR _01_ sky130_fd_sc_hd__nand2b_1
XFILLER_4_65 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_TAPCELL_ROW_9_31 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_1_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_05_ net4 net1 VGND VGND VPWR VPWR _00_ sky130_fd_sc_hd__nand2_1
XFILLER_4_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_04_ net3 net2 VGND VGND VPWR VPWR _03_ sky130_fd_sc_hd__nand2_1
XFILLER_7_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_8_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xinput1 A[0] VGND VGND VPWR VPWR net1 sky130_fd_sc_hd__clkbuf_1
XFILLER_1_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_7_Left_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_9_Right_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_3_24 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
Xinput2 A[1] VGND VGND VPWR VPWR net2 sky130_fd_sc_hd__buf_1
XFILLER_1_69 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xinput3 B[0] VGND VGND VPWR VPWR net3 sky130_fd_sc_hd__clkbuf_1
XFILLER_1_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_0_Right_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_7_69 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_4_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_27 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xinput4 B[1] VGND VGND VPWR VPWR net4 sky130_fd_sc_hd__clkbuf_1
XFILLER_6_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_4_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_1_39 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_TAPCELL_ROW_6_27 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_7_27 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_2_Left_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_4_Right_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_4_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_2_41 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_51 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_41 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_2_53 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_6_Left_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_63 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_8_Right_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_65 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_2_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_75 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XTAP_TAPCELL_ROW_1_22 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_2_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_8_33 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_35 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_1_Left_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_4_25 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_EDGE_ROW_3_Right_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_69 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_2_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_2_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_8_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_9_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_5_Left_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_7_Right_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_TAPCELL_ROW_7_28 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_3_40 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_11_ _03_ _00_ net4 net2 VGND VGND VPWR VPWR net7 sky130_fd_sc_hd__o211a_1
XFILLER_8_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_7_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_9_Left_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_10_ net8 _02_ VGND VGND VPWR VPWR net6 sky130_fd_sc_hd__nor2_1
XFILLER_3_52 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_6_41 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_63 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_6_53 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_0_Left_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_75 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_EDGE_ROW_2_Right_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_65 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xoutput5 net5 VGND VGND VPWR VPWR P[0] sky130_fd_sc_hd__buf_2
XFILLER_3_33 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_5_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xoutput6 net6 VGND VGND VPWR VPWR P[1] sky130_fd_sc_hd__buf_2
XTAP_TAPCELL_ROW_2_23 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_6_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
.ends

